US07271181B2
To a mixture of (2,6-Difluoro-phenyl)-(5-iodo-pyridin-2-yl)-amine and Pd(PPh3)4 (approximately 10 mol %) in toluene (approximately. 80 mL/g) at room temperature was added tributylvinyltin (1.1 eq.). The reaction was placed under a N2 atmosphere and heated to 80° C. overnight. The solution was cooled, diluted with ethyl acetate (approximately 80 mL/g) and filtered through a pad of celite. The celite was washed with a further portion of ethyl acetate. The organic layer was dried over MgSO4 and concentrated in vacuo to give the crude reaction product as a yellow oil. Purification by column chromatography, using 10% ethyl acetate:hexane as eluant provided (2,6-Difluoro-phenyl)-(5-vinyl-pyridin-2-yl)-amine (Rf 0.14) in 66% yield.

reactant | (2,6-Difluoro-phenyl)-(5-iodo-pyridin-2-yl)-amine | FC1=C(C(=CC=C1)F)NC1=NC=C(C=C1)I | C11H7F2IN2
reactant | tributylvinyltin | 1.1 eq. | C(CCC)C(=C(CCCC)CCCC)[Sn]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2,6-Difluoro-phenyl)-(5-vinyl-pyridin-2-yl)-amine | 66% yield | FC1=C(C(=CC=C1)F)NC1=NC=C(C=C1)C=C | C13H10F2N2
